US07078405B2
2-[2-Ethyl-3-(1-propylbutyl)imidazo[1,2-a]pyrazin-8-yl]-3,5-dimethylphenyl methyl ether
2-[2-Ethyl-3-[(Z)-1-propyl-1-butenyl]imidazo[1,2-a]pyrazin-8-yl]-3,5-dimethylphenyl methyl ether (41 mg, 0.12 mmol) was dissolved in ethanol (1.5 mL), then 10% palladium-carbon (50% hydrous product; 120 mg) was added thereto, and the mixture was heated under stirring at 45° C. for 4 hours at a normal pressure under hydrogen atmosphere. The mixture was further stirred at room temperature for 15 hours. The reaction mixture was filtered and washed with ethyl acetate, and then the filtrates were combined and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:1) to give the title compound (25 mg) as white crystals.

reactant | 2-[2-Ethyl-3-[(Z)-1-propyl-1-butenyl]imidazo[1,2-a]pyrazin-8-yl]-3,5-dimethylphenyl methyl ether | 0.12 mmol, 41 mg | COC1=C(C(=CC(=C1)C)C)C=1C=2N(C=CN1)C(=C(N2)CC)\C(=C/CC)\CCC | C24H31N3O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 120 mg | [C].[Pd]
product | 2-[2-Ethyl-3-(1-propylbutyl)imidazo[1,2-a]pyrazin-8-yl]-3,5-dimethylphenyl methyl ether | 25 mg | COC1=C(C(=CC(=C1)C)C)C=1C=2N(C=CN1)C(=C(N2)CC)C(CCC)CCC | C24H33N3O
